US06432993B1
(46-2) 5-{4-[6-(4-Aminophenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione dihydrochloride
A mixture of a solution of t-butyl N-{5-(4-aminophenoxy)-2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]phenyl}-N-methylcarbamate (27.08 g) in 1,4-dioxane (50 ml) and 4N hydrogen chloride/dioxane (150 ml) was stirred at ambient temperature for 2 days. The insoluble product was isolated by filtration and washed with ethyl acetate to give the title compound (14.43 g).

reactant | t-butyl N-{5-(4-aminophenoxy)-2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]phenyl}-N-methylcarbamate | 27.08 g | NC1=CC=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)NC(COC2=CC=C(C=C2)CC2C(NC(S2)=O)=O)=O)C=C1 | C30H32N4O7S
reactant | hydrogen chloride dioxane | 4N, 150 ml | Cl.O1CCOCC1
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 5-{4-[6-(4-Aminophenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione dihydrochloride | 14.43 g | Cl.Cl.NC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1 | InChI=1S/C25H22N4O4S.2ClH/c1-29-21-13-19(33-18-8-4-16(26)5-9-18)10-11-20(21)27-23(29)14-32-17-6-2-15(3-7-17)12-22-24(30)28-25(31)34-22;;/h2-11,13,22H,12,14,26H2,1H3,(H,28,30,31);2*1H
